US07148249B2
1-acetyl-6-chloro-3-[1-hydroxy-1-(4-pyridyl)methylene]-2-indolinone
6.3 g of 1-acetyl-6-chloro-2-indolinone, 4.06 g pyridine-4-carboxylic acid, 10.6 g TBTU and 21 ml triethylamine are stirred in 60 ml of DMF for 15 hours at ambient temperature. The mixture is combined with water, then adjusted to pH 5 by the addition of 10% acetic acid. The precipitate is suction filtered, washed with water and taken up in ethyl acetate. The solution obtained is dried with sodium sulphate and evaporated almost to dryness. The precipitate obtained is suction filtered and dried at 100° C.

reactant | 1-acetyl-6-chloro-2-indolinone | 6.3 g | C(C)(=O)N1C(CC2=CC=C(C=C12)Cl)=O | C10H8ClNO2
reactant | pyridine-4-carboxylic acid | 4.06 g | N1=CC=C(C=C1)C(=O)O | C6H5NO2
reactant | TBTU | 10.6 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | triethylamine | 21 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 1-acetyl-6-chloro-3-[1-hydroxy-1-(4-pyridyl)methylene]-2-indolinone | C(C)(=O)N1C(C(C2=CC=C(C=C12)Cl)=C(C1=CC=NC=C1)O)=O | C16H11ClN2O3
